US07951954B2
a) {3-[(2-Hydroxy-benzylamino)-methyl]-phenyl}-acetic acid methyl ester
A mixture of 2-hydroxybenzylamine (407 mg) and (3-formylphenyl)acetic acid methyl ester (594 mg) in dichloromethane (10 mL) and 1-methyl-2-pyrrolidone (10 mL) was treated with acetic acid (333 mg) followed by sodium triacetoxyborohydride (1.41 g) and the whole stirred at room temperature for 18 hours. The reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate, the organic layer was washed twice with saturated aqueous brine before being separated, dried and evaporated under reduced pressure to yield the sub-titled compound (0.81 g).

reactant | 2-hydroxybenzylamine | 407 mg | OC1=C(CN)C=CC=C1 | C7H9NO
reactant | (3-formylphenyl)acetic acid methyl ester | 594 mg | COC(CC1=CC(=CC=C1)C=O)=O | C10H10O3
reactant | acetic acid | 333 mg | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.41 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | 1-methyl-2-pyrrolidone | 10 mL | CN1C(CCC1)=O | C5H9NO
product | {3-[(2-Hydroxy-benzylamino)-methyl]-phenyl}-acetic acid methyl ester | 0.81 g | COC(CC1=CC(=CC=C1)CNCC1=C(C=CC=C1)O)=O | C17H19NO3
